US08008307B2
Step a: 2-Chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-6-methylpyrimidine-4-amine
2,4-Dichloro6-methylpyrimidine (2.54 g, 0.156 mol) was dissolved in ethanol (100 mL) and N,N-diisopropylethylamine (4.07 mL, 0.23 mol) was added followed by (S)-1-Aminoindan (2.00 mL, 0.156 mol). The solution was heated to reflux for 2 hours, TLC indicated complete conversion. The solvent was removed in vacuo and the residue was purified using chromatography on silica gel using gradient 0 to 50% ethyl acetate in hexane to afford the title compound (1.95 g, 46%). LC/MS: Rt=1.90 min, ES+ 260 (AA standard).

reactant | 2,4-Dichloro6-methylpyrimidine | 0.156 mol, 2.54 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | N,N-diisopropylethylamine | 0.23 mol, 4.07 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-Aminoindan | 0.156 mol, 2.00 mL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Chloro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]-6-methylpyrimidine-4-amine | 1.95 g, 46% | ClC1=NC(=CC(=N1)N[C@H]1CCC2=CC=CC=C12)C | C14H14ClN3
